US08580959B2
(R)-1-(2-Methoxy-4-nitrophenyl)pyrrolidin-3-ol
A mixture of 2-chloro-5-nitroanisole (0.59 g, 3.1 mmol) and 3-hydroxy pyrrolidine (0.55 g, 6.2 mmol) was heated neat to 110° C. over night. Reaction mass was diluted with ethyl acetate and the organic layer was given water and brine wash, dried over Na2SO4, concentration yields dark red solid (0.6 g, 82% yield). LC-MS, [M+H]+=239.

reactant | 2-chloro-5-nitroanisole | 3.1 mmol, 0.59 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])OC | C7H6ClNO3
reactant | 3-hydroxy pyrrolidine | 6.2 mmol, 0.55 g | OC1CNCC1 | C4H9NO
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | brine | [Cl-].[Na+].O
product | (R)-1-(2-Methoxy-4-nitrophenyl)pyrrolidin-3-ol | 0.6 g, 82% yield | COC1=C(C=CC(=C1)[N+](=O)[O-])N1C[C@@H](CC1)O | C11H14N2O4
